US05192766
3.41 ml of diphenylphosphoryl azide and 1.09 ml of 1-formylpiperazine were added to a 60 ml of a methylene chloride solution of 3.00 g of 3,3-bis(4-methoxyphenyl)acrylic acid and 2.94 ml of triethylamine. The reaction mixture was then stirred for 2 hour at room temperature, after which it was poured into a saturated aqueous solution of sodium bicarbonate and extracted twice with methylene chloride. The combined extracts were washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was dissolved in 80 ml of methanol, and 40 ml of a 10% w/v aqueous solution of sodium hydroxide were added to the resulting solution. The reaction mixture was stirred for 18 hours at room temperature and then poured into water; it was then extracted twice with methylene chloride. The combined extracts were washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography through 80 g of silica gel eluted with mixtures of methylene chloride and methanol ranging from 19:1 to 4:1 by volume to give 3.00 g of 1-[3,3-bis(4-methoxyphenyl)acryloyl]piperazine as a powder.

reactant | diphenylphosphoryl azide | 3.41 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1-formylpiperazine | 1.09 ml | C(=O)N1CCNCC1 | C5H10N2O
reactant | 3,3-bis(4-methoxyphenyl)acrylic acid | 3.00 g | COC1=CC=C(C=C1)C(=CC(=O)O)C1=CC=C(C=C1)OC | C17H16O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | triethylamine | 2.94 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 1-[3,3-bis(4-methoxyphenyl)acryloyl]piperazine | 3.00 g | COC1=CC=C(C=C1)C(=CC(=O)N1CCNCC1)C1=CC=C(C=C1)OC | C21H24N2O3
